US06621099B2
2 M octylmagnesium bromide (100 milliliters, 0.2 mol) in anhydrous ethyl ether was added to a well-stirred mixture of dichloro[1,3-bis(diphenylphosphino)-propane]nickel(II) (0.2 gram) and 3,4-dibromothiophene (20.16 grams, 0.0833 mol) in 200 milliliters of anhydrous ethyl ether in a 500 milliliter round bottom flask cooled with an ice bath under an inert atmosphere. The nickel complex reacted immediately with the Grignard reagent and the resulting reaction mixture was allowed to warm up to room temperature. An exothermic reaction started within 30 minutes and the ethyl ether began to reflux gently. After stirring for another 2 hours at room temperature, the reaction mixture was refluxed for 6 hours, then cooled in an ice bath, and hydrolyzed with aqueous 2N hydrochloric acid. The organic layer was separated and washed successively with water, brine, and again with water, dried over anhydrous sodium sulfate, and filtered. After evaporation of the solvent, the residue was distilled under reduced pressure through Kugelrohr apparatus to provide 21.3 grams of 3,4-dioctylthiophene as a colorless liquid.

reactant | octylmagnesium bromide | 0.2 mol, 2 M, 100 milliliters | C(CCCCCCC)[Mg]Br
reactant | 3,4-dibromothiophene | 0.0833 mol, 20.16 grams | BrC1=CSC=C1Br | C4H2Br2S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | ethyl ether | 200 milliliters | C(C)OCC | C4H10O
catalyst | dichloro[1,3-bis(diphenylphosphino)-propane]nickel(II) | 0.2 gram | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
product | 3,4-dioctylthiophene | 21.3 grams | C(CCCCCCC)C1=CSC=C1CCCCCCCC | C20H36S
